US06380249B1
Step 1: Synthesis of 1-(3-bromophenyl)-1,2,3,4-tetrahydronaphthalen-1-ol
To a solution of 1 g (4.2 mmol) 1,3-dibromobenzene in 10 mL diethyl ether was added 0.096 g (4 mmol) magnesium metal turnings. This mixture was stirred until all of the magnesium was consumed, at which time 0.29 g (2 mmol) 1-tetralone was added dropwise in 2 mL diethyl ether. The reaction was then heated to reflux for 30 min, after which the cooled reaction was quenched with a 10% HCl solution and extracted three times with ethyl acetate. The combined organic layers were washed with water, brine, dried over anhydrous sodium sulphate, filtered, and the solvent removed in vacuo to afford the crude product which was used without further purification.

reactant | 1,3-dibromobenzene | 4.2 mmol, 1 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | magnesium | 4 mmol, 0.096 g | [Mg] | Mg
reactant | 1-tetralone | 2 mmol, 0.29 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | 1-(3-bromophenyl)-1,2,3,4-tetrahydronaphthalen-1-ol | BrC=1C=C(C=CC1)C1(CCCC2=CC=CC=C12)O | C16H15BrO
